US04304770
Conc. hydrochloric acid (2.1 g.) was added under ice-cooling and stirring to a solution of 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (6.0 g.) in methanol (60 ml.), and the mixture was stirred for 4 hours at ambient temperature. The solvent was removed from the reaction mixture and ethyl acetate (50 g.) was added thereto. The mixture was adjusted to pH 7.0 under stirring with a saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated, washed with ethyl acetate and adjusted to pH 3.5 with conc. hydrochloric acid. Precipitates were collected by filtration, washed with water and dried under reduced pressure to give powder of 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (4.62 g.).

reactant | hydrochloric acid | 2.1 g | Cl | ClH
reactant | 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 6.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCCCC)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C22H27N9O6S3
solvent | methanol | 60 ml | CO | CH4O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.62 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCCCC)C(=O)O)C1=O)C=1N=C(SC1)N | C21H27N9O5S3
